US07749972B2
A mixture of 4-(2-hydroxyethyl)phenol (1 g), 3-bromopropionaldehyde dimethyl acetal (1.02 mL), cesium carbonate (2.83 g) and a catalytic amount of sodium iodide in acetone (15 mL) was stirred at room temperature overnight. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on aminopropylated silica gel (eluent: n-hexane/ethyl acetate=1/1) to give 3-[4-(2-hydroxy-ethyl)phenyloxy]propionaldehyde dimethyl acetal (1.22 g). This material was dissolved in methylene chloride (15 mL). To the solution were added triethylamine (0.85 mL) and methanesulfonyl chloride (0.43 mL) under ice-cooling, and the mixture was stirred for 1 hour. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The ethyl acetate solution was washed with 0.5 mol/L hydrochloric acid, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 3-[4-(2-methanesulfonyloxyethyl)-phenyloxy]propionaldehyde dimethyl acetal (1.49 g). To a solution of 7-benzyloxy-1H-indole (1.04 g) in N,N-dimethyl-formamide (10 mL) was added sodium hydride (55% 0.25 g) under ice-cooling, and the mixture was stirred for 10 minutes. To the reaction mixture were added the above 3-[4-(2-methane-sulfonyloxyethyl)phenyloxy]propionaldehyde dimethyl acetal (1.49 g) and a catalytic amount of sodium iodide, and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=6/1-5/1) to give 7-benzyloxy-1-{2-[4-(3,3-dimethoxypropoxy)phenyl]ethyl}-1H-indole. This material was dissolved in tetrahydrofuran (10 mL). To the solution was added 10% palladium-carbon powder (0.5 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 5 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (1.57 g).

reactant | 7-benzyloxy-1H-indole | 1.04 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=CNC12 | C15H13NO
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | 3-[4-(2-methane-sulfonyloxyethyl)phenyloxy]propionaldehyde dimethyl acetal | 1.49 g | COC(CCOC1=CC=C(C=C1)CCOS(=O)(=O)C)OC | C14H22O6S
reactant | sodium iodide | [I-].[Na+]
solvent | N,N-dimethyl-formamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 7-benzyloxy-1-{2-[4-(3,3-dimethoxypropoxy)phenyl]ethyl}-1H-indole | C(C1=CC=CC=C1)OC=1C=CC=C2C=CN(C12)CCC1=CC=C(C=C1)OCCC(OC)OC | C28H31NO4
